datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C@H]1[C@@H](C)[O:62][C@:11](C)([H:10])[O:12]1.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>C[C@H]1[C@@H](C)[O:62][C:11](C)=[O+:12]1.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:34]([N+](=O)[O-])=[CH:33]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33].OCC[NH:10]CCO>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].OCC[NH+:10](CCO)[S:20]C(F)F 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N+:10]1=[C:61]2[N:62](CC[C@@H]1C(C)(C)C)C1=C(C=CC=C1)[S:72]2)[C:41]1=[CH:42][C:43]2=[C:44](N(C)CCC2)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"CCN1CC[N:14]2CCN(CC)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25]>>CCN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:21]1=[CH:22][C:23](OC)=[C:24]([O-:25])[C:33](OC)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[CH:61]=[C:62]3N(CC)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C[Si:11](C)(CC1=CC=CC(Cl)=C1)[H:10].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C[Si+:11](C)CC1=CC=CC(Cl)=C1.Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1.[H:10][Cl:20] 10,11=10,20;20,21=21,22;22,23=23"
"C1=C[C:14](=[N+:15]([O-:16])[O-:67])[CH:13]=[CH:12][C:11]1=[O:10].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])C=C2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1C[C:21](=[CH2:20])[C:22](=[O:23])[O:33]C1.O=N[W:11]1234(N=O)([H:10])C5C1C2C3C54>>C1C[C:21]([CH2:20][H:10])=[C:22]([O-:23])[O:33]C1.O=N[W+:11]1234(N=O)C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>C1C[C:20]([H:10])([O-:21])CCO1.[H][C:11]1=[CH:12][CH:13]=[N+:14](CC2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[Si:73](C)(C)[O:12]/[CH:11]=[CH:10]/[CH:61]=[CH2:62].FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>C[Si:73](C)(C)[O+:12]=[CH:11][CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](C(F)(F)F)=[CH:54][CH:55]=[CH:56]1)[CH:61]=[CH2:62] 10,11=10,20;12=11,12"
CC[O:72][C:61]([S-:10])=[S:62].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([S:10][C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[S:62] 10=20
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[C:15]1=[CH:14][CH:13]=[C:12]([C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([H:10])[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[C+:15]1[CH:14]=[CH:13][C:12](=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[C:95](C)[CH:104]=[CH:103]2)[CH:63]=[CH:64]1 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"CC[O:72][C:61]([CH-:10][P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:34]([N+](=O)[O-])=[CH:33]1>>CC[O:72][C:61]([CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33]([N+](=O)[O-])[CH:33]=[C:34]1[N+](=O)[O-])[P:81](=[O:82])([O:92]CC)[O:102]CC)=[O:62] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[O:92][C:61]([CH-:10][N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61](=[O:62])[O:92]C(C)(C)C)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
